US07157487B2
In xylene (100 ml), 2-chlorobenzoxazole (326 μl, 2.86 mmol) and ethyl (3-amino-2-chloro-6-pyridyl)acetate (557 mg, 2.59 mmol) were heated under reflux for 4 hours under stirring. After the reaction mixture was cooled to room temperature, the solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column, whereby from n-hexane/ethyl acetate (3:1, v/v) eluate fractions, ethyl (3-(2-benzoxazolyl)amino-2-chloro-6-pyridyl)acetate (460 mg, 53%) was obtained as a colorless gum.

reactant | 2-chlorobenzoxazole | 2.86 mmol, 326 μl | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | ethyl (3-amino-2-chloro-6-pyridyl)acetate | 2.59 mmol, 557 mg | NC=1C(=NC(=CC1)CC(=O)OCC)Cl | C9H11ClN2O2
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl (3-(2-benzoxazolyl)amino-2-chloro-6-pyridyl)acetate | 460 mg, 53% | O1C(=NC2=C1C=CC=C2)NC=2C(=NC(=CC2)CC(=O)OCC)Cl | C16H14ClN3O3
